US05247085
To a stirred mixture of diethyl (S)-[1-(t-butyldiphenylsilyloxymethyl)-2-hydroxyethoxy]methylphosphonate (540 mg, 1.12 mmol), triphenylphosphine (440 mg, 1.68 mmol) and 2-[bis-(t-butoxycarbonyl)amino]-9-hydroxy-6-methoxypurine (prepared as described in EF-A-319228) (428 mg, 1.12 mmol) in dry THF (20 ml), cooled in ice and under a nitrogen atmosphere, was added dropwise diethyl azodicarboxylate (0.27 ml, 1.68 mmol). Within five minutes complete dissolution had occurred and the ice bath was removed. After 1 hour, the solution was evaporated to dryness and the residue obtained chromatographed on silica gel (initial eluant hexane: ethyl acetate 2:1, then hexane:ethyl acetate in the proportions 1:1, 1:2, 1:3) to yield (S)-2-[bis-(t-butoxycarbonyl)amino]-9-[3-(t-butyldiphenylsilyloxy)-2-(diethoxyphosphorylmethoxy)propoxy]-6-methoxypurine as a colourless glass (310 mg, 32%). 1H NMR: δH [(CD3)2SO] 0.96 (9H, s, t-Bu), 1.18, 1.19 (2×3H, 2×t, J= 7 Hz, (OCH2CH3)2), 1.37 (18H, br.s, 2×t-Bu), 3.7-4.15 (12H, m, CHCH2, (OCH2CH3)2, OCH2P, OCH3), 4.45-4.70 (2H, m, NOCH2), 7.25-7.75 (10H, m, 2×Ph), 8.75 (1H, s, H-8). m/z: (FAB+ve ion, thioglycerol/HCl) 844 (MH+, 4%), 644 (100%).

reactant | diethyl (S)-[1-(t-butyldiphenylsilyloxymethyl)-2-hydroxyethoxy]methylphosphonate | 1.12 mmol, 540 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](CO)OCP(OCC)(OCC)=O | C24H37O6PSi
reactant | triphenylphosphine | 1.68 mmol, 440 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[bis-(t-butoxycarbonyl)amino]-9-hydroxy-6-methoxypurine | 1.12 mmol, 428 mg | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)O)OC)C(=O)OC(C)(C)C | C16H23N5O6
reactant | diethyl azodicarboxylate | 1.68 mmol, 0.27 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (S)-2-[bis-(t-butoxycarbonyl)amino]-9-[3-(t-butyldiphenylsilyloxy)-2-(diethoxyphosphorylmethoxy)propoxy]-6-methoxypurine | 310 mg, 32% | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OC[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OCP(=O)(OCC)OCC)OC)C(=O)OC(C)(C)C | C40H58N5O11PSi
